US09056873B2
Preparation 29: 4,6-Dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one
To a solution of diisopropylamine (96 g, 0.94 mol) in THF (800 mL) was slowly added n-butyllithium (379 mL, 0.95 mol, 2.5 M) at −78° C. The mixture was stirred at the same temperature for 30 minutes. To the mixture was added 2,6-dichloro-5-fluoronicotinic acid (90 g, 0.43 mol) in THF (500 mL). The solution was stirred for an additional 2 h. To the mixture was added DMF (154 mL, 1.94 mol) dropwise, The mixture was stirred for 1 h, after which 2N HCl (1.54 L) (pH<1) was introduced. The mixture was subsequently extracted with EtOAc and the organic layers were basified with aqueous NaHCO3 (pH>8). The aqueous layer was separated, acidified with 2N HCl (1.2 L) (pH<1), and extracted with EtOAc. The organic layer was washed with water and brine, dried over anhydrous Na2SO4, and filtered. The filtrate was concentrated under reduced pressure and the resulting residue was washed with DCM to give the title compound as a reddish solid (81.6 g, 80%). 1H NMR (DMSO-d6, 400 MHz) δ ppm 6.85 (s, 1H), 8.83 (s, 1H). [M+H] calc'd for C7H2C12FNO3, 238. found, 238.

reactant | diisopropylamine | 0.94 mol, 96 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.95 mol, 2.5 M, 379 mL | C(CCC)[Li]
reactant | 2,6-dichloro-5-fluoronicotinic acid | 0.43 mol, 90 g | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | DMF | 1.94 mol, 154 mL | CN(C)C=O | C3H7NO
reactant | HCl | 2N, 1.54 L, pH<1 | Cl | ClH
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4,6-Dichloro-7-fluoro-1-hydroxyfuro[3,4-c]pyridin-3(1H)-one | 81.6 g, 80% | ClC1=NC(=C(C2=C1C(OC2O)=O)F)Cl | C7H2Cl2FNO3
